US08859774B2
A solution of (R)-(1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone in dichloromethane (2.5 mL) (2.7 mL, ˜0.2 mmol) containing diisopropylamine (174 μL, 1 mmol) was added to 6-chloro-pyridine-3-sulfonyl chloride (53 mg, 0.25 mmol) and diisopropylethylamine (100 μL, 0.57 mmol) and the mixture stirred for 16 hours. The reaction mixture was concentrated and the residue was purified by column chromatography on silica gel (gradient: 20-30% ethyl acetate in cyclohexane) to afford (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone as a white solid (85 mg). LCMS (Method B ESI): RT 3.92 min, m+H=550.0; 1H NMR (400 MHz, CDCl3): δ 8.66 (d, J=2.5 Hz, 1 H); 8.61 (d, J=4.7 Hz, 1 H); 7.85-7.86 (m, 3 H); 7.48-7.49 (m, 1 H); 7.42-7.43 (m, 2 H); 7.35 (d, J=8.4 Hz, 1 H); 7.27 (s, 1 H); 7.15-7.16 (m, 2 H); 6.50 (s, 1 H); 5.57 (d, J=12.4 Hz, 1 H); 4.23 (d, J=16.9 Hz, 1 H); 3.85-3.95 (m, 1H); 2.86-2.87 (m, 3 H); 2.66 (d, J=11.9 Hz, 1 H); 2.53 (d, J=15.1 Hz, 1 H).

reactant | (R)-(1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCNC[C@]1(C2)C(=O)C2=NC=CC=C2 | C22H19FN4O
reactant | dichloromethane | ˜0.2 mmol, 2.5 mL | ClCCl | CH2Cl2
reactant | diisopropylamine | 1 mmol, 174 μL | C(C)(C)NC(C)C | C6H15N
reactant | 6-chloro-pyridine-3-sulfonyl chloride | 0.25 mmol, 53 mg | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | diisopropylethylamine | 0.57 mmol, 100 μL | C(C)(C)N(CC)C(C)C | C8H19N
product | (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 85 mg | ClC1=CC=C(C=N1)S(=O)(=O)N1C[C@]2(CC3=C(C=C2CC1)N(N=C3)C3=CC=C(C=C3)F)C(=O)C3=NC=CC=C3 | C27H21ClFN5O3S
